data/pmechdb/original/mc_train_fold0/raw/train.txt
CO[C:20](O)([O-:10])[O:21]C>>C[O-:21].CO[C:20](=[O:10])O 10=20;20,21=21
[H:20][O+:21](C1CCC2(C3CCC4(C(C3CC=C2C1)CCC4(C(=O)C)OC(=O)C)C)C)[Al-](OC(C)C)(OC(C)C)OC(C)C.CC(C)[O-:10]>>[H:20][O:10]C(C)C.CC(C)O[Al-]([O:21]C1CCC2(C3CCC4(C(C3CC=C2C1)CCC4(C(=O)C)OC(=O)C)C)C)(OC(C)C)OC(C)C 10=20;20,21=21
[H:20][OH2+:21].C[NH:10]C>>[H:20][NH+:10](C)C.[OH2:21] 10=20;20,21=21
CO[CH:20]([OH:10])[SH2+:21]>>CO[CH:20]=[OH+:10].[SH2:21] 10=20;20,21=21
CCOC(=O)[CH:10]=[C:11](C)[NH2:12].CCOC(=O)[C:21](=[CH:20]C1=C(ON=C1C)CCC2=CC(=CC=C2)Br)[C:22](=[O:23])C.CCO.[NH4+].O>>CCOC(=O)[CH:10]([CH:20](C1=C(ON=C1C)CCC2=CC(=CC=C2)Br)[C:21](=[C:22](C)[O-:23])C(=O)OCC)[C:11](=[NH2+:12])C.CCO.[NH4+].O 10,11=10,20;12=11;22,23=23;20,21=21,22
CC(=O)C=CCCC(C=C(C)[O-])[S+:11](C1=CC=CC=C1)[K:10].O>>CC(=O)C=CCCC(C=C(C)[O-])[S:11]C1=CC=CC=C1.[K+:10].O 10,11=11
CCOC(=O)[C:10](=[C:11](C)[O-:12])C.COC1=C2C(=C(C=C1)[N+:21]#[N:20])C(=CC=N2)C3=C(C=CC=C3)F.O.[Cl-]>>CCOC(=O)[C:10](C)([C:11](=[O:12])C)[N:20]=[N:21]C1=C2C(=CC=NC2=C(C=C1)OC)C3=C(C=CC=C3)F.O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)NC(=O)CC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(=O)N[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
CC(=O)C[C:20](C=C)([O-:10])[O:21]C(=O)C>>CC(=O)C[C:20](=[O:10])C=C.CC(=O)[O-:21] 10=20;20,21=21
[H:20][P+:21](OC)(OC)OC.C1=NN=N[N-:10]1>>[H:20][N:10]1C=NN=N1.CO[P:21](OC)OC 10=20;20,21=21
CC[O-:10].CC(=[C:20]=[O:21])C>>CC[O:10][C:20](=C(C)C)[O-:21] 10=20;20,21=21
C1CC2C(C1)[C:20]2=[O:21].[OH:10][K].[OH2+][K].[Cl-]>>C1CC2C(C1)[C:20]2([O-:21])[OH+:10][K].[OH2+][K].[Cl-] 10=20;20,21=21
[H:20][C:21]1([C:22](=[NH+:23]C(C(C)C)C(=O)O)CCC2(C1(CCC2=O)O)C)C.CC(C)C(C(=O)[O-:10])N.O>>[H:20][O:10]C(=O)C(C(C)C)N.C[C:21]1=[C:22](CCC2(C1(CCC2=O)O)C)[NH:23]C(C(C)C)C(=O)O.O 10=20;22,23=23;20,21=21,22
C[O:21][C:20](C1=CC=CC=C1)(O)[O-:10]>>C[O-:21].C1=CC=C(C=C1)[C:20](=[O:10])O 10=20;20,21=21
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=C(OC(=C1)C=O)C[O-:10].C1CC(=O)NC1=O>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CC4=CC=C(O4)C=O)Br.C1CC(=O)NC1=O 10=20,
[H:20][O+:21]([B-](F)(F)F)C.C[O:10]COC(CCOCC1=CC=CC=C1)CC2=C(C3=CC=CC(=C3C(=C2)OC)OC)OC.CCOCC>>[H:20][O+:10](C)COC(CCOCC1=CC=CC=C1)CC2=C(C3=CC=CC(=C3C(=C2)OC)OC)OC.[B-]([O:21]C)(F)(F)F.CCOCC 10=20;20,21=21
[H:20][NH+:21](C(CC#N)CC1=CNC2=CC=CC=C21)C(CO[Si](C3=CC=CC=C3)(C4=CC=CC=C4)C(C)(C)C)O.C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH2:10]>>[H:20][NH2+:10]C(CC#N)CC1=CNC2=C1C=CC=C2.CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC([NH:21]C(CC#N)CC3=CNC4=CC=CC=C43)O 10=20;20,21=21
C[C:20](C)([NH2:10])[OH2+:21]>>C[C:20](=[NH2+:10])C.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].CCC=[N:10][Al-:11](CC(C)C)CC(C)C>>[H:20][N:10]=CCC.CC(C)C[Al:11]CC(C)C.[OH2:21] 10,11=10,20;20,21=21
C[N:10]1CCC[CH:20](C1)[Cl:21].CC(=O)[O-]>>C[N+:10]12CCC[CH:20]1C2.[Cl-:21].CC(=O)[O-] 10=20;20,21=21
[H:20][Cl:21].CCOC(=O)C1(C(CCC(C1CC(=O)C)(C#N)C#[N:10])C)C(=O)OCC.CCO>>[H:20][N+:10]#CC1(CCC(C(C1CC(=O)C)(C(=O)OCC)C(=O)OCC)C)C#N.[Cl-:21].CCO 10=20;20,21=21
[H:20][NH+:21](C)C(C)(CC(C(=O)C)C(=O)OCC)O.C[NH2:10].O>>[H:20][NH2+:10]C.CCOC(=O)C(CC(C)([NH:21]C)O)C(=O)C.O 10=20;20,21=21
[H:20][C:21]1(C(=O)CC[C:22]1=[O:23])C.[OH-:10]>>[H:20][OH:10].C[C:21]1=[C:22](CCC1=O)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH:21].C1=CC=C(C=C1)C(=O)[CH2:10][Mg:11]Br>>[H:20][CH2:10]C(=O)C1=CC=CC=C1.[OH-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[H:20][CH:21]1C=C([O+:23]=[C:22]1C2=CC=C(C=C2)C(C)(C)C)C3=CC=C(C=C3)C(C)(C)C.[B-]([OH:10])(F)(F)F.CCOCC>>CC(C)(C)C1=CC=C(C=C1)C2=C[CH:21]=[C:22]([O:23]2)C3=CC=C(C=C3)C(C)(C)C.[H:20][OH+:10][B-](F)(F)F.CCOCC 10=20;22,23=23;20,21=21,22
COC1=C(C=CC(=C1)N2CC[C:20](CC2)([N:10]3CCCC(C3)O)[OH2+:21])[N+](=O)[O-].CCN(CC)CC.CC(=O)[O-]>>COC1=C(C=CC(=C1)N2CC[C:20](=[N+:10]3CCCC(C3)O)CC2)[N+](=O)[O-].[OH2:21].CCN(CC)CC.CC(=O)[O-] 10=20;20,21=21
C1=CC(=CC(=C1)C#N)[O-:10].C(CCl)[CH2:20][Br:21].CC[OH+][Na]>>C1=CC(=CC(=C1)C#N)[O:10][CH2:20]CCCl.[Br-:21].CC[OH+][Na] 10=20;20,21=21
CO[P:10](OC)OC.[CH3:20][Cl:21]>>CO[P+:10]([CH3:20])(OC)OC.[Cl-:21] 10=20;20,21=21
CC(=O)C1=C[CH:11]=[CH:10]O1.[Br:20][Br:21]>>CC(=O)C1=C[CH+:11][CH:10](O1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
[H:20][OH+:21]C(C1=C(C=CC=C1)C(=O)O)(NCC2=CC=CC=C2)O.[OH2:10]>>C1=CC=C(C=C1)CNC(C2=C(C=CC=C2)C(=O)O)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
CCO[CH:20]=[O:21].C1CC[C:11](=[CH:10]C1)[O-:12]>>CCO[CH:20]([CH:10]1CCCC[C:11]1=[O:12])[O-:21] 10,11=10,20;20,21=21;12=11
[B:20](F)(F)F.CC1CCC2C3=C(C2(C4(CC1)OCC[O:10]4)O)C=C(C=C3)C.CC[SiH](CC)CC>>[B-:20]([O+:10]1CCOC12CCC(CCC3C2(C4=C3C=CC(=C4)C)O)C)(F)(F)F.CC[SiH](CC)CC 10=20,
[H:20][O+:21](C(C)([O-])OC(=O)C)N=CC.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC=N[O:21]C(C)([O-])OC(=O)C 10=20;20,21=21
CC[CH+:20]C1=CC=CC=C1.[Br-:10]>>CC[CH:20](C1=CC=CC=C1)[Br:10] 10=20,
